US04320148
A solution of 1.0 g. (3.8 mmole) of N-[1,2,3,4-tetrahydro-8-methoxy-5-(methylthio)-2-naphthalenyl]acetamide in 100 ml. of toluene containing 0.474 g. (6 mmole) of pyridine was heated to 65°. Phosphorous pentachloride (1.25 g., 6 mmol.) was added and heating continued for two hours. The toluene was removed under reduced pressure, 200 ml. of methanol was added and the solution stirred overnight at room temperature. The methanol was evaporated and 100 ml. of 1:1 tetrahydrofuran-H2O was added. After 30 minutes the tetrahydrofuran was removed and the aqueous layer was washed with ether. It was made alkaline with ammonium hydroxide and extracted with three portions of methylene chloride. The combined extracts were dried and evaporated to yield as an oil the free base, 1,2,3,4-tetrahydro-8-methoxy-5-(methylthio)-2-naphthalenamine. This was dissolved in ether and treated with excess ethereal hydrogen chloride. The resulting precipitate was removed by filtration and recrystallized from methanol-ethyl acetate-ether to give 0.45 g. of 1,2,3,4-tetrahydro-8-methoxy- 5-(methylthio)-2-naphthalenamine hydrochloride as a white solid, m.p. 290° (dec.).

reactant | N-[1,2,3,4-tetrahydro-8-methoxy-5-(methylthio)-2-naphthalenyl]acetamide | 3.8 mmole | COC=1C=CC(=C2CCC(CC12)NC(C)=O)SC | C14H19NO2S
reactant | pyridine | 6 mmole | N1=CC=CC=C1 | C5H5N
reactant | Phosphorous pentachloride | 6 mmol, 1.25 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 0.474 g | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4-tetrahydro-8-methoxy-5-(methylthio)-2-naphthalenamine | COC=1C=CC(=C2CCC(CC12)N)SC | C12H17NOS
